US05068371
3,3-Dimethyl-1-[(2,4-difluorophenyl)methyl]-2-azetidinone
49.7 g (0.19 mol) of 3-chloro-2,2-dimethyl-N-[(2,4-difluorophenyl)methyl]propanamide and 78.8 g (0.57 mol) of potassium carbonate are suspended in 200 ml of methyl ethyl ketone, and the suspension is warmed and stirred at 75° C. for 24 hours. When the reaction is complete (GC check), the mixture is filtered, and the filtrate is evaporated on a vacuum rotary evaporator. 40.9 g (95% of theory) of a yellow oil are obtained.

reactant | 3-chloro-2,2-dimethyl-N-[(2,4-difluorophenyl)methyl]propanamide | 0.19 mol, 49.7 g | ClCC(C(=O)NCC1=C(C=C(C=C1)F)F)(C)C | C12H14ClF2NO
reactant | potassium carbonate | 0.57 mol, 78.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
product | 3,3-Dimethyl-1-[(2,4-difluorophenyl)methyl]-2-azetidinone | CC1(C(N(C1)CC1=C(C=C(C=C1)F)F)=O)C | C12H13F2NO
